data/oMe_Silver.jsonl
{"reaction_id": "NR-204_2-C_3-COCC","level": "hard","name": "Nenitzescu Indole Synthesis","reactants_smiles": ["O=C1C=CC(=O)C=C1","C=C(N([H])C)C(=O)OCOCC"],"products_smiles": ["C1=C(O)C=CC2=C1C(C(=O)COCC)=CN(C)2"],"conditions": "Acetic acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC(C1C(C(C2=CC=CC=C2)=[NH+](C))C(=O)O(COCC))=O)O","step_weight": 0,"rationale": "The β-aminocrotonate enamine acts as a nucleophile, attacking the electrophilic β-carbon of 1,4-benzoquinone due to strong conjugation and electron withdrawal by the carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC(C1C(=C(C2=CC=CC=C2)[NH](C))C(=O)O(COCC))=O)O","step_weight": 0,"rationale": "Proton transfer stabilizes the adduct by neutralizing charge and preparing the intermediate for intramolecular cyclization under acidic conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(C))C(=O)O(COCC))O)O","step_weight": 0,"rationale": "The amine nitrogen attacks the carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by conjugation and acid activation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(C))C(=O)O(COCC))[OH2+])O","step_weight": 0,"rationale": "Protonation of the hydroxyl group creates a good leaving group, facilitating subsequent elimination to form the indole ring system."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)[N+]=3(C))C(=O)O(COCC)))O","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is an excellent leaving group, driving formation of the iminium intermediate and partial ring aromatization."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1=C(C=CC3(=C1C(=C(C2=CC=CC=C2)N3(C))C(=O)O(COCC)))O","step_weight": 0,"rationale": "Deprotonation restores full aromaticity of the indole core, a thermodynamically favorable step that completes the synthesis."}],"description": "Under acidic conditions, the β-aminocrotonate undergoes Michael addition to 1,4-benzoquinone, forming a conjugated adduct. Subsequent intramolecular nucleophilic attack and proton transfers enable cyclization to the indole core, followed by elimination steps to restore aromaticity and yield the 5-hydroxyindole product."}
{"reaction_id": "NR-304_1-CCCCCC","level": "medium","name": "Takai Olefination","reactants_smiles": ["O=C([H])(CCCCCC)","C(I)(I)I","Cl[Cr]Cl"],"products_smiles": ["CCCCCC/C=C/I"],"conditions": "CrCl2","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC(I)[Cr](Cl)Cl","step_weight": 0,"rationale": "Cr(II) undergoes oxidative addition into a C–I bond due to iodine’s excellent leaving group ability and the high polarizability of the C–I bond, forming a reactive organochromium intermediate."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "IC([Cr](Cl)Cl)[Cr](Cl)Cl","step_weight": 0,"rationale": "A second oxidative addition occurs because the remaining C–I bond is similarly activated, and Cr(II) readily inserts, producing a gem-dichromium species with enhanced nucleophilicity at the methylene carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCCCCCC(O[Cr](Cl)Cl)C(I)([Cr](Cl)Cl)","step_weight": 0,"rationale": "The nucleophilic iodomethyl-dichromium attacks the electrophilic aldehyde carbonyl, facilitated by polarization of the C=O bond and stabilization of the alkoxide by coordination to chromium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCCCCC/C=C/I","step_weight": 0,"rationale": "Syn-elimination is favored due to the chelation geometry imposed by chromium, leading to selective E-alkenyl iodide formation driven by steric minimization between substituents."}],"description": "In the Takai olefination, CrCl2 activates iodoform through successive oxidative additions, generating a nucleophilic iodomethyl-dichromium species. This species adds to the aldehyde, and stereoselective elimination yields the E-vinyl iodide, driven by chromium coordination and thermodynamic product stability."}
